US04071633
17.5g (0.08 mol) of 3,4-dichlorobenzoic ethyl ester and 4.3g (0.086 mol) of 100%-hydrazine hydrate in 30 ml of ethanol were refluxed under heat for 6.5 hours. Upon cooled, the sedimented white crystals were added with ethyl ether and the reaction mixture was enough agitated and pulverized. The thus resulted products were filtered and enough washed with ethyl ether to provide 9.3g of 3,4-dichlorobenzoic hydrazide in white crystals. m.p.: 168°-170° C. Yield: 57%.

reactant | 3,4-dichlorobenzoic ethyl ester | 0.08 mol, 17.5g | C(C)OC(C1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | hydrazine hydrate | O.NN
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,4-dichlorobenzoic hydrazide | 9.3g, Yield: 57% | ClC=1C=C(C(=O)NN)C=CC1Cl | C7H6Cl2N2O
